US06673809B2
1-[4(9-Chloro-3-methyl-4-oxo-5H-isoxazolo[4,3-c]quinolin-5-yl)cyclopent-2-enyl]3-(3,4,5-trimethoxy-phenyl)-urea
To a stirred solution of 5-(4amino-cyclopent-2-enyl)9-chloro-3-methyl-5H-isoxazolo[4,3-c]quinolin-4-one (69 mg, 0.22 mmol) in CH2Cl2 (5 mL) was added 3,4,5-trimethoxy-isocyanato benzene (55 mg, 0.26 mmol) and DMAP (catalytic amount) and stirred at rt. for 18 hours. The mixture was diluted with CH2Cl2, washed (brine), dried Na2SO4), filtered and concentrated. Column chromatography (silica gel, hexanes/ethyl acetate, gradient) gave the title compound (116 mg, 100%). Mass Spectrum (FIA) (m/z) 425.3 (M+1) 1H NMR (CDCl3): δ 7.45 (d, 1H); 7.40 (t, 1H); 7.33 (d, 1H); 6.58 (m, 3H); 5.95 (m, 1H); 5.83 (m, 1H); 5.18 (s, 1H); 3.78 (s, 9H); 2.98 (m, 2H); 2.05 (m, 2H).

reactant | 5-(4amino-cyclopent-2-enyl)9-chloro-3-methyl-5H-isoxazolo[4,3-c]quinolin-4-one | 0.22 mmol, 69 mg | NC1C=CC(C1)N1C(C=2C(C=3C(=CC=CC13)Cl)=NOC2C)=O | C16H14ClN3O2
reactant | 3,4,5-trimethoxy-isocyanato benzene | 0.26 mmol, 55 mg | COC=1C=C(C=C(C1OC)OC)N=C=O | C10H11NO4
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
catalyst | DMAP | CN(C)C=1C=CN=CC1 | C7H10N2
product | 1-[4(9-Chloro-3-methyl-4-oxo-5H-isoxazolo[4,3-c]quinolin-5-yl)cyclopent-2-enyl]3-(3,4,5-trimethoxy-phenyl)-urea | 116 mg, 100% | ClC=1C=2C=3C(C(N(C2C=CC1)C1C=CC(C1)NC(=O)NC1=CC(=C(C(=C1)OC)OC)OC)=O)=C(ON3)C | C26H25ClN4O6
